US07893077B2
N-{6-Butyryl-5-[4-(pyrrolidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-2,4-dichloro-benzenesulfonamide (94)
Prepared from 2-amino-5-iodo-6-pentoxycarbonylpyridine and 4-(N -pyrollidylsulfonyl)thiophenol according to General Method 11 step 1 followed by reaction with 2,4-dichlorophenylsulfonyl chloride according to General Method 11 step 2 and then General Method 11 step 3 employing propyl magnesium chloride. 1H NMR (CDCl3): 8.00 (1 H, d, J 11 Hz, A-ring CH ortho to SO2NH), 7.76 & 7.52 (2×2 H, 2×d, 2×J 10 Hz, Ar CH's of C-ring), 7.61 (1 H, br s, NH), 7.46 (1 H, s, A-ring CH ortho to 2×Cl) 7.32 (1 H, d, J 11 Hz, A-ring CH ortho to Cl), 7.07 & 7.03 (2×1 H, 2×d, 2×J 11 Hz, B-ring CH's), 3.24-3.15 (4H, m, CH2NCH2), 2.89 (2 H, t, J 8 Hz, COCH2), 1.78-1.69 (4 H, m, CH2CH2CH2CH2), 1.63 (2 H, sextet, J 8 Hz, CH2CH3), 0.92 (3 H, t, J 9 Hz, CH3). Hplc (Luna 2, Gradient 5): rt=6.86 minutes. LC/MS rt=7.55 minutes, 614/616 (MH+).

reactant | 2-amino-5-iodo-6-pentoxycarbonylpyridine | NC1=NC(=C(C=C1)I)C(=O)OCCCCC | C11H15IN2O2
reactant | 4-(N -pyrollidylsulfonyl)thiophenol | N1(CCCC1)S(=O)(=O)C1=CC=C(C=C1)S | C10H13NO2S2
reactant | 2,4-dichlorophenylsulfonyl chloride | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | propyl magnesium chloride | C(CC)[Mg]Cl
product | N-{6-Butyryl-5-[4-(pyrrolidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-2,4-dichloro-benzenesulfonamide | C(CCC)(=O)C1=C(C=CC(=N1)NS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl)SC1=CC=C(C=C1)S(=O)(=O)N1CCCC1 | C25H25Cl2N3O5S3
